US04968702
3-Amino-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid
A 4.42 g portion of isatin was suspended in 25 ml of water in a three-necked 1 liter flask equipped with a reflux condenser and addition funnel. To this suspension was added a solution of 6.4 g of sodium hydroxide in 20 ml of water, then the mixture was heated to 90° C. A solution of 15.0 g of 2-amino-4'-phenylacetophenone, hydrochloride in 300 ml of a 50:50 mixture of ethanol:water was warmed slightly, then 100 ml of tetrahydrofuran was added to effect dissolution. This solution was added dropwise to the hot solution of isatin over 1.5 hours with vigorous stirring. When addition was complete, the solution was stirred at 90° C. for 1 hour and then the organic solvents were removed by distillation at 85° C. The remaining solution was cooled, filtered and the filtrate acidified to pH 5 with glacial acetic acid. The resulting solid was collected, washed with water and dried. The yellow solids were suspended in 40 ml of ethanol, filtered and dried, giving 2.19 g of the desired product, mp 223°-225° C. (dec.).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydroxide | 6.4 g | [OH-].[Na+]
reactant | 2-amino-4'-phenylacetophenone, hydrochloride | 15.0 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | ethanol | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Amino-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid | 2.19 g | NC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H16N2O2
